US07795288B2
Diethyl-[2-(4-isothiocyanato-phenoxy)-ethyl]-amine
The title compound is prepared as described in Example 1 for 1-[2-(4-isothiocyanato-phenoxy)-ethyl]-pyrrolidine but using 4-(2-diethylamino-ethoxy)-phenylamine. Title compound: ES-MS: 251.1 [M+H]+; single peak at tR=6.99 min (System 1).

reactant | 1-[2-(4-isothiocyanato-phenoxy)-ethyl]-pyrrolidine | N(=C=S)C1=CC=C(OCCN2CCCC2)C=C1 | C13H16N2OS
reactant | 4-(2-diethylamino-ethoxy)-phenylamine | C(C)N(CCOC1=CC=C(C=C1)N)CC | C12H20N2O
product | Diethyl-[2-(4-isothiocyanato-phenoxy)-ethyl]-amine | C(C)N(CCOC1=CC=C(C=C1)N=C=S)CC | C13H18N2OS
